US07592343B2
SYNTHESIS OF 6-(4-BENZO[d]ISOTHIAZOL-3-YLPIPERAZIN-1-YL)PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
Following the procedure as described in Example 1, making variation only as required to use 3-piperazin-1-ylbenzo[d]isothiazole to replace 1-(4-fluorophenyl)-piperazine to react with 6-chloropyridazine-3-carboxylic acid (2-cyclopropylethyl)amide, the title compound was obtained as a white powder in 25% yield (0.0307 g). 1H NMR (300 MHz, CDCl3) δ 8.13 (d, J=9.5 Hz, 1H), 7.94 (m, 2H), 7.80 (d, J=8.0 Hz, 1H), 7.50 (t, J=7.3 Hz, 1H), 7.38 (t, J=7.8 Hz, 1H), 7.16 (d, J=8.0 Hz, 1H), 4.05 (m, 4H), 3.73 (m, 4H), 3.51 (m, 2H), 1.50 (m, 2H), 0.73 (m, 1H), 0.45 (m, 2H), 0.06 (m, 2H). MS (ES+) m/z 409 (M+1).

reactant | 3-piperazin-1-ylbenzo[d]isothiazole | N1(CCNCC1)C1=NSC2=C1C=CC=C2 | C11H13N3S
reactant | 1-(4-fluorophenyl)-piperazine | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | 6-chloropyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)Cl | C10H12ClN3O
product | 6-(4-BENZO[d]ISOTHIAZOL-3-YLPIPERAZIN-1-YL)PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | 25% yield | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C1=NSC2=C1C=CC=C2 | C21H24N6OS
